US05436264
Proceeding as an Example 3, but replacing 2-[2-(cyclopropylmethyloxy)phenoxy]ethyl methanesulfonate with 2-[2-(2-methylprop-1-yloxy)phenoxy]ethyl methanesulfonate and [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine with [2- (1H-indol-3-yl)-1,1-dimethylethyl]amine, gave [2-(1H-indol-3-yl)-1,1-dimethylethyl]{-[2-(2-methylprop-1-yloxy)phenoxy]ethyl}amine hydrochloride, m.p. 147°-148° C.

reactant | 2-[2-(2-methylprop-1-yloxy)phenoxy]ethyl methanesulfonate | CS(=O)(=O)OCCOC1=C(C=CC=C1)OCC(C)C | C13H20O5S
reactant | [2-(5-chloro-1H-indol-3-yl)-1,1-dimethylethyl]amine | ClC=1C=C2C(=CNC2=CC1)CC(C)(C)N | C12H15ClN2
reactant | [2- (1H-indol-3-yl)-1,1-dimethylethyl]amine | N1C=C(C2=CC=CC=C12)CC(C)(C)N | C12H16N2
product | [2-(1H-indol-3-yl)-1,1-dimethylethyl]{-[2-(2-methylprop-1-yloxy)phenoxy]ethyl}amine hydrochloride | Cl.N1C=C(C2=CC=CC=C12)CC(C)(C)NCCOC1=C(C=CC=C1)OCC(C)C | InChI=1S/C24H32N2O2.ClH/c1-18(2)17-28-23-12-8-7-11-22(23)27-14-13-26-24(3,4)15-19-16-25-21-10-6-5-9-20(19)21;/h5-12,16,18,25-26H,13-15,17H2,1-4H3;1H
